US06271237B1
Part A: 2-Fluoro-4-((2′-tert-butyldimethylsilyloxymethyl)phenyl)aniline: A solution of 2-formylphenylboronic acid (5 g, 33.3 mmol) and 4-bromo-2-fluoroaniline (4.2 g, 22.2 mmol) in THF (80 mL) and aqueous Na2CO3 solution (2M, 80 mL) was bubbled with nitrogen for 10 minutes. After Pd(PPh3)4 (1.54 g, 1.33 mmol) was added, the resulting mixture was refluxed under nitrogen for 4 hours. The THF layer was separated and filtered through a pad of silica gel. The silica gel was washed with THF. To the combined filtrates containing 2-fluoro-4-(2′-formylphenyl)aniline (65 mL) was portion by portion added NaBH4 (2.2 g, 29.1 mmoL). The resulting mixture was stirred at room temperature for 1 hour, quenched with 1N HCl (10 mL), and washed with 1N HCl (100 mL×3). The combined HCl layers were neutralized with 50% NaOH to pH 12 and extracted with EtOAc (100 mL×3). The EtOAc layers were dried over Na2SO4, concentrated, and purified by column chromatography with a graduate solvent (hexane to EtOAc) to give 2-fluoro-4-(2′-hydroxymethylphenyl)aniline (3.83 g, 97.6%). 1H NMR (CDCl3) δ7.53 (dd, J=6.6 Hz, J=2.2 Hz, 1H), 7.36-7.33 (m, 2H), 7.25 (dd, J=6.6 Hz, J=2.2 Hz, 1H), 7.06 (dd, J=12.1 Hz, J=1.8 Hz, 1H), 6.97 (dd, J=8.0 Hz, J=1.8 Hz, 1H), 6.82 (t, J=8.8 Hz, 1H), 4.63 (s, 2H), 3.79 (bs, 2H); 19F NMR (CDCl3): δ−135.66 (dd, J=12.21 Hz, J=9.2 Hz); CIMS(CI) m/z 218 (M+H, 100%).

reactant | 2-formylphenylboronic acid | 33.3 mmol, 5 g | C(=O)C1=C(C=CC=C1)B(O)O | C7H7BO3
reactant | 4-bromo-2-fluoroaniline | 22.2 mmol, 4.2 g | BrC1=CC(=C(N)C=C1)F | C6H5BrFN
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | Na2CO3 | 2M, 80 mL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Pd(PPh3)4 | 1.33 mmol, 1.54 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-fluoro-4-(2′-hydroxymethylphenyl)aniline | 3.83 g, 97.6% | FC1=C(N)C=CC(=C1)C1=C(C=CC=C1)CO | C13H12FNO
